US05891889
Step B: Preparation of N-tert-butoxycarbonyl-4-(3-methylbenzyl)-4-methoxymethylpiperidine
To a suspension of potassium hydride (0.40 g, dry weight, 10 mmol; obtained from washing 0.97 g of 35% potassium hydride dispersion in mineral oil with hexanes and drying under a stream of argon) in anhydrous THF (45 mL), N-tert-butoxycarbonyl-4-(3-methylbenzyl)-4-hydroxymethylpiperidine (1.89 g, 5.9 mmol) in THF (15 mL) was added. The resultant mixture was stirred at room temp. for 1 h, and treated with dimethyl sulfate (1.13 mL, 11.9 mmol). The reacting mixture was stirred at room temp. overnight. The product mixture was cooled to 0° C., quenched with water, and diluted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 10% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | potassium hydride | [H-].[K+]
reactant | N-tert-butoxycarbonyl-4-(3-methylbenzyl)-4-hydroxymethylpiperidine | 5.9 mmol, 1.89 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)CC1=CC(=CC=C1)C | C19H29NO3
reactant | dimethyl sulfate | 11.9 mmol, 1.13 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-4-(3-methylbenzyl)-4-methoxymethylpiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC)CC1=CC(=CC=C1)C | C20H31NO3
